US06703514B2
To a solution of dicumarol (10 mmol) and p-toluenesulfonyl chloride (1.0 eq.) in dichloromethane (20 ml), triethylamine was added at room temperature under air atmosphere. After the reaction was complete, as monitored by TLC, the reaction mixture was evaporated and the residue was purified by flash chromatography (silica gel) to afford the product, 3,3′-methylenebis[4-tosylcoumarin].

reactant | dicumarol | 10 mmol | C=1C=CC2=C(C1)C(=C(C(=O)O2)CC3=C(C=4C=CC=CC4OC3=O)O)O | C19H12O6
reactant | p-toluenesulfonyl chloride | 1.0 eq. | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 3,3′-methylenebis[4-tosylcoumarin] | C(C=1C(OC2=CC=CC=C2C1S(=O)(=O)C1=CC=C(C)C=C1)=O)C=1C(OC2=CC=CC=C2C1S(=O)(=O)C1=CC=C(C)C=C1)=O | C33H24O8S2
